US05866576
This example illustrates a synthesis of N-(10,11-Oxidoundecyl)-2-piperidone (inventive compound no. 1618). A mixture of potassium hydroxide (1.55 g, 25 mmol, pellets ground in mortar and pestle) and tetrabutylammonium bromide (1.61 g, 5.0 mmol) was stirred in dry tetrahydrofuran (10 mL). A solution of d-valerolactam (2.5 g, 25 mmol) and 1-bromo-10-undecene (Lancaster, 5.9 g, 25 mmol) in tetrahydrofuran (15 mL) was added by syringe pump over 1 hour. After stirring for a further 6 hours. Water (60 mL) and dichloromethane (60 mL) was added to the reaction mixture. The layers were separated and the aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic layers were washed with water (50 mL) and saturated salt solution (50 mL) and then dried with sodium sulfate. The residue was further purified by chromatography using silica and 30% hexane, ethyl acetate to yield 2.88 g (46% yield) of N-(10-Undecenyl)-2-piperidone (inventive compound no. 1616) as a colorless oil.

reactant | potassium hydroxide | 25 mmol, 1.55 g | [OH-].[K+]
reactant | d-valerolactam | 25 mmol, 2.5 g | C1CCNC(=O)C1 | C5H9NO
reactant | 1-bromo-10-undecene | 25 mmol, 5.9 g | BrCCCCCCCCCC=C | C11H21Br
reactant | Water | 60 mL | O | H2O
catalyst | tetrabutylammonium bromide | 5.0 mmol, 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | N-(10-Undecenyl)-2-piperidone | 2.88 g, 46% yield | C(CCCCCCCCC=C)N1C(CCCC1)=O | C16H29NO
